US06747023B1
1-(tert-Butoxycarbonyl)-2-[2-(tert-butyldiphenylsilyloxy)ethyl]-4-[(6-chloronaphthalen -2-yl)sulfonyl]piperazine
In N,N-dimethylformamide (15 ml) was dissolved 1-tert-butoxycarbonyl-4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-(2-hydroxyethyl)piperazine (739 mg) and imidazole (226 mg). Under ice cooling, tert-butylchlorodiphenylsilane (0.70 ml) was added to the resulting solution, followed by stirring at room temperature for 23 hours. The reaction mixture was distilled off under reduced pressure. The residue was extracted with methylene chloride and a saturated aqueous solution of sodium bicarbonate. The organic layer thus obtained was washed with dilute hydrochloric acid and saturated aqueous NaCl solution, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by column chromatography (hexane:ethyl acetate=2:1˜:2) using as a carrier silica gel, whereby the title compound (804 mg) was obtained as a pale yellow oil.

reactant | 1-tert-butoxycarbonyl-4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-(2-hydroxyethyl)piperazine | 739 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)CCO | C21H27ClN2O5S
reactant | imidazole | 226 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodiphenylsilane | 0.70 ml | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-(tert-Butoxycarbonyl)-2-[2-(tert-butyldiphenylsilyloxy)ethyl]-4-[(6-chloronaphthalen -2-yl)sulfonyl]piperazine | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C37H45ClN2O5SSi
